US06727264B1
BENZYL 1-PHENYL-1H-INDOL-6-YL ETHER:
Prepared by Procedure C and Scheme O using 6-(benzyloxy)-1H-indole and iodobenzene: ESMS m/e: 300.0 (M+H)+.

reactant | 6-(benzyloxy)-1H-indole | C(C1=CC=CC=C1)OC1=CC=C2C=CNC2=C1 | C15H13NO
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | BENZYL 1-PHENYL-1H-INDOL-6-YL ETHER | C1(=CC=CC=C1)N1C=CC2=CC=C(C=C12)OCC1=CC=CC=C1 | C21H17NO
